US07915268B2
4-(2,4-Dimethoxybenzylamino)-3-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)benzonitrile.
A solution of 4-(2,4-dimethoxybenzylamino)-3-aminobenzonitrile (3.9 g) in acetonitrile (100 mL) was cooled to 0° C. and treated with potassium carbonate (6.3 g) followed by a solution containing 3 g of 2-chloro-5-nitro-4-thiocyanatopyrimidine (WO 2003/032994) in acetonitrile (50 mL). The mixture was stirred for 30 minutes at 0° C. and 30 minutes at room temperature resulting in the formation of a precipitate. The mixture was quenched at 0° C. by the addition of 4% acetic acid (150 mL) and filtered. The precipitate was swirled in 100 mL acetonitrile and filtered again. The precipitate was washed with acetonitrile, which resulted in the slow dissolution of product into the filtrate. After air-drying, 1.5 g of the title compound remained as the precipitate cake. The filtrate was extracted with EtOAc, dried over Na2SO4, filtered, and concentrated in vacuo. Column chromatography (0→20% EtOAc/DCM) and recrystallization from acetonitrile provided 0.415 g of additional title compound.

reactant | 4-(2,4-dimethoxybenzylamino)-3-aminobenzonitrile | 3.9 g | COC1=C(CNC2=C(C=C(C#N)C=C2)N)C=CC(=C1)OC | C16H17N3O2
reactant | potassium carbonate | 6.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-nitro-4-thiocyanatopyrimidine | 3 g | ClC1=NC=C(C(=N1)SC#N)[N+](=O)[O-] | C5HClN4O2S
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-(2,4-Dimethoxybenzylamino)-3-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)benzonitrile | 0.415 g | COC1=C(CNC2=C(C=C(C#N)C=C2)NC2=NC=C(C(=N2)SC#N)[N+](=O)[O-])C=CC(=C1)OC | C21H17N7O4S
